US06809199B2
STEP E: Methyl 3,5-dibromo-4-{(1Z)-3-[(2,6-dichlorophenyl)amino]-3-oxoprop-1-enyl}benzoate
To a solution of (2Z)-3-[2,6-dibromo-4-(methoxycarbonyl)phenyl]prop-2-enoic acid (1.24 g) (contaminated with 20% of the E isomer) in dichloromethane (34 mL) at 0° C. under nitrogen atmosphere was added oxalyl bromide (2 mL of a 2M solution in dichloromethane) followed by dimethylformamide (170 μL). The mixture was then warmed to rt and stirred until all gas evolution had ceased. The reaction was cooled again to 0° C. where diisopropylethylamine (83 μL) and 2,6-dichloroaniline (607 mg) were added and the reaction warmed to rt and stirred for 16 h. The reaction mixture was then poured into brine and extracted into ethyl acetate. A small amount of unreacted starting acid was removed by washing the organic layer with saturated sodium bicarbonate solution, before drying over MgSO4 and concentrating. The residue was purified by column chromatography on silica gel to give the title compound still contaminated with 20% of the E isomer. 1H NMR (500 MHz, CDCl3): δ 8.99 (br.s, 1H, Z isomer); 8.26 (br.s, 1H, E isomer); 8.20 (s, 1H, Z isomer); 7.80-6.40 (m, 6H); 3.96 (s, 3H, E isomer); 3.92 (s, 3H, Z isomer). Mass spectrum: m/z 507 (M+H).

reactant | (2Z)-3-[2,6-dibromo-4-(methoxycarbonyl)phenyl]prop-2-enoic acid | 1.24 g | BrC1=C(C(=CC(=C1)C(=O)OC)Br)\C=C/C(=O)O | C11H8Br2O4
reactant | oxalyl bromide | C(C(=O)Br)(=O)Br | C2Br2O2
reactant | diisopropylethylamine | 83 μL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2,6-dichloroaniline | 607 mg | ClC1=C(N)C(=CC=C1)Cl | C6H5Cl2N
solvent | dichloromethane | 34 mL | ClCCl | CH2Cl2
solvent | brine | [Cl-].[Na+].O
solvent | dimethylformamide | 170 μL | CN(C=O)C | C3H7NO
product | Methyl 3,5-dibromo-4-{(1Z)-3-[(2,6-dichlorophenyl)amino]-3-oxoprop-1-enyl}benzoate | BrC=1C=C(C(=O)OC)C=C(C1\C=C/C(=O)NC1=C(C=CC=C1Cl)Cl)Br | C17H11Br2Cl2NO3
